Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
focal status epilepticus

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F w/ known epilepsy (well controlled
on valproic acid, and phenytoin), intellectual disability 
(living
in group home), hyponatremia, hypothyroidism, who presents w/
focal status epilepticus today, lasting about 20min. 

Patient was last seen well yesterday evening. Her aid went into
her room this morning to check on her, and found her to be
seizing. Seizure was described as b/l upper extremity shaking,
with rapid movements of eyes from L to R, altered awareness. The
observed seizure lasted for about ___ min, ___. At the
end of the seizure, patient had urinary incontinence. She was
then ___, was not talking, but could follow commands such
as squeezing the hand and lifting legs to get changed. About 15
min later, she started having L sided facial twitching. EMS was
called and arrived within few minutes. On their arrival patient
was no longer seizing. Glucose stick was normal. She received 4
mg of Versed IM in the field. Not seizing on arrival at ___ 
ED.
Then subsequently began seizing again with L sided facial
twitching and gaze deviation to the left for an additional 5
minutes. Given 2 mg of Ativan IV. After medications, she remains
somnolent. 

Of note, no recent illness or fever. She did complain about
abdominal pain 3 days ago which was relieved w/ voiding. No
missed AEDs, they are administered by the group home staff. No
recent known head trauma.

Of note, Ms. ___ has intellectual disability, but is fairly
independent. She lives in a group home and goes to day program.
She is conversant. Toileting, dressing, eating independently. 
The
meals are prepared for her, and she does not shop or handle
finances independently. All medications are administered by the
group home where she resides.

Seizure history:
Had first ___ seizure at age of ___, has infrequent
seizures, last one ___ years ago. In the past, her seizures have
been triggered by hyponatremia or trial of phenytoin wean. Her
epilepsy has been well controlled on valproic acid ___ BID and
phenytoin 100mg AM/130mg ___. The documentation from her prior
neurology ___ and neurologic history was requested in ED but
not yet received.

Current AEDs:
valproic acid ___ BID
phenytoin 100mg AM/130mg ___.

Prior AEDs: Unknown at this time

Last EEG: Unknown at this time

Medical Team includes:
PCP: Dr. ___ ___ 
Neurologist: Dr. ___, affiliated with ___, ph:
___ 

ROS: + complained of abdominal pain 3 days ago, relieved w/
voiding

 

 
Past Medical History:
HYPONATREMIA                                                    
HYPOTHYROIDISM                                                  
DEPRESSION                                                      
EPILEPSY                                                        
FRACTURED BONE                                                  
MENTAL RETARDATION                                              
OSTEOPENIA                                                      
POSTMENOPAUSAL                                                  
ROSACEA                                                         
STRABISMUS                                                      
HYPERLIPIDEMIA                                                  
HYPONATREMIA                                                    

 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother                UNKNOWN                                   

Father                UNKNOWN                                   

Comments: SISTER guardian ___ uncertain                   
 
Physical Exam:
ON ADMISSION:
===============
VS: AF, HR 87, BP 124/84, RR 18, SpO2 97% on 2L NC

 General: somnolent
 HEENT: NC/AT
 Neck: No nuchal rigidity
 Pulmonary: No increased WOB.
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: 
Initially - somnolent, arousing to voice and noxious stimulus
On reassessment - awake, slightly agitated, trying to get out of
bed, saying "let me get out", not following commands

-Cranial Nerves: PERRL 2 to 1mm and brisk. EOMI intact w/ VOR. 
No
facial droop, facial musculature symmetric - symmetric grimace.
Reacts to noise b/l. Palate elevates symmetrically. Tongue
protrudes in midline.

-Motor: On initial assessment, withdrawing all extremities to
noxious stimulus. On reassessment, moving all extremities
spontaneously against gravity.

-Sensory: Moves all extremities to light touch.

-DTRs: symmetrically brisk throughout. Plantar reflexes extensor
bilaterally. 

-Coordination: Unable to assess.

-Gait: Unable to assess.

ON DISCHARGE:
==============
24 HR Data (last updated ___ @ 016)
Temp: 99.0 (Tm 99.2), BP: 98/71 (___), HR: 92 (___),
RR: 18 (___), O2 sat: 97% (___), O2 delivery: RA  

General: alert, bright, tracks and regards
HEENT: NC/AT, EEG in place
Neck: No nuchal rigidity
Pulmonary: No increased WOB.
Cardiac: warm and well perfused
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: rash around folds of mouth, on chin

Neurologic
-Mental Status: 
Initially -  awake and alert. Oriented to name ___, year and
month with options. Follows midline and one step commands
consistently, more difficulty with appendicular commands

-Cranial Nerves: PERRL 4 to 2mm and brisk. EOMI intact w/ some
break down of saccadic pursuit. Resting rotary nystagmus L>R, 
non
extinguishing nystagmus in all direction end gaze. No facial
droop, facial musculature symmetric - symmetric grimace. Reacts
to noise b/l. Palate elevates symmetrically. Tongue protrudes in
midline.

-Motor: Normal bulk and tone, no adventitious movements
RUE: delt ___, biceps ___, triceps ___, finger flexion ___
LUE: delt ___, biceps ___, triceps ___, finger flexion ___
RLE: IP: ___, kicks and moves leg antigravity
LLE: IP: ___, kicks and moves leg antigravity

-Sensory: Moves all extremities to light touch
-DTRs: symmetrically brisk throughout. Plantar reflexes extensor
bilaterally
-Coordination: Unable to assess
-Gait: Steady gait with walker
 
Pertinent Results:
LABS:
=======
___ 
___ Plt ___ ___
___ 
___

URINE:
========
-URINE ___ Sp ___ 
___ 
___ WBC-<1 ___ 
___

AED TREND:
===========
___ 07:00AM BLOOD ___
___ 04:27PM BLOOD ___
___ 06:10AM BLOOD ___
___ 06:00AM BLOOD ___

DIAGNOSTICS:
==============
___, CTA H/N ___:
___ head CT: No acute large territorial infarction,
hemorrhage or mass. Prominence of the ventricles and sulci 
likely
represent involutional changes. Additional irregularity of the
left lateral ventricle is likely due to old frontal infarction
(series 2, image 23). Degenerative changes in the cervical 
spine,
most prominent at ___.
 
CTA head/neck:
Evaluation of the CTA head/neck is severely
limited by motion artifact. Within these limitations, there is 
no
obvious intracranial arterial occlusion, dissection, or 
aneurysm.
Intracranial vasculature appears grossly patent.

CXR:
IMPRESSION:  No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
Ms. ___ is a ___ F w/ known epilepsy (well controlled 
on valproic acid, and phenytoin), intellectual disability 
(living in group home), hyponatremia, hypothyroidism, who 
presented w/focal status epilepticus lasting about 20min. NCHCT 
and CTA H/N negative for acute changes, but notable for 
significant
atrophy and an old infarct.

She received 4 mg of Versed IM in the field. Not seizing on 
arrival to ___, but the subsequently began seizing with left 
sided facial twitching and gaze deviation to the left for an 
additional 5 minutes. She was given 2 mg of Ativan IV, and 
seizure stopped immediately. 

Etiologies of seizure could most likely subtherapeutic phenytoin 
at 8.3 and acute on chronic hyponatremia with admission sodium 
of 126. Depakote level on admission normal at 63. She was given 
5 mg/kg phenytoin load with post load level of 10.7. After this 
load, cvEEG was without further seizure. After discussion with 
outpatient neurologist, her phenytoin was increased to 130 mg 
BID from 100/130. Her ___ tab was increased to 1000 mg BID, 
previously 1000 mg daily. Sodium levels slowly increased over 
course of hospitalization to 135 at time of discharge.

She was evaluated by ___ and OT while in the hospital, and we 
feel she could benefit with continuing these services as an 
outpatient.

TRANSITIONAL ISSUES:
========================
[] Neurology
- Dilantin increased to 130 mg BID from 100/130
[] PCP
- ___ salt tabs to 1 gm BID from 1 gm daily.
- Follow up Na levels
[] Outpatient ___ and OT 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxybutynin 5 mg PO QHS 
2. Ketoconazole 2%  1 Appl TP ASDIR 
3. alclometasone 0.05 % topical ASDIR 
4. DiphenhydrAMINE 25 mg PO QHS:PRN insomnia 
5. Famotidine 20 mg PO BID 
6. Atorvastatin 20 mg PO QPM 
7. Phenytoin Sodium Extended 100 mg PO QAM 
8. Phenytoin Sodium Extended 130 mg PO QPM 
9. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
10. calcium ___ D3 1500 -400 mg oral BID 
11. Sodium Chloride 1 gm PO QAM 
12. Aspirin 81 mg PO DAILY 
13. FLUoxetine 20 mg PO QAM 
14. Levothyroxine Sodium 88 mcg PO DAILY 
15. FoLIC Acid 1 mg PO DAILY 
16. Divalproex (EXTended Release) 500 mg PO BID 

 
Discharge Medications:
1.  Phenytoin Sodium Extended 130 mg PO BID 
RX *phenytoin sodium extended [Dilantin] 30 mg 1 capsule(s) by 
mouth twice a day Disp #*60 Capsule Refills:*3
RX *phenytoin sodium extended [Dilantin Extended] 100 mg 1 
capsule(s) by mouth twice a day Disp #*60 Capsule Refills:*3 
2.  Sodium Chloride 1 gm PO BID 
RX *sodium chloride 1 gram 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
3.  alclometasone 0.05 % topical ASDIR  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 20 mg PO QPM  
6.  calcium ___ D3 1500 -400 mg oral BID  
7.  DiphenhydrAMINE 25 mg PO QHS:PRN insomnia  
8.  Divalproex (EXTended Release) 500 mg PO BID  
9.  Famotidine 20 mg PO BID  
10.  FLUoxetine 20 mg PO QAM  
11.  FoLIC Acid 1 mg PO DAILY  
12.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
13.  Ketoconazole 2%  1 Appl TP ASDIR  
14.  Levothyroxine Sodium 88 mcg PO DAILY  
15.  Oxybutynin 5 mg PO QHS  
16.Outpatient Physical Therapy
epilepsy
intellectual disability
17.Outpatient Occupational Therapy
epilepsy
intellectual disability

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to seizures. Your lab work showed that 
your sodium was too low. The level of one of your seizures 
medications, Dilantin, in your blood was also too low. These two 
things most likely lead to you have seizures.

Your daily sodium tabs were increased. We talked to your 
Neurologist and your Dilantin was also increased to 130 mg twice 
daily. You have been doing well on this regimen.

We noticed you were unsteady walking, and you were evaluated by 
___ and OT. We think you could benefit from their services as an 
outpatient.

Please follow up with your PCP and ___ as below. 

It was a pleasure taking care of you.

Sincerely,
Youre ___ Neurology Team
 
Followup Instructions:
___